US04044049
To a solution of 2.1 grams of 4-(2'-methyl-4'-fluorophenyl)-anisole in 50 ml. of boiling acetic acid is added 5 ml. of hydriodic acid and the boiling continued for 3 hours. Water is added and the reaction mixture cooled and the 4-(2'-methyl-4'-fluorophenyl)-phenol crystallizes. Further purification is then achieved by recrystallization of the solid from aqueous ethanol to yield 4-(2'-methyl-4'-fluorophenyl)-phenol.

reactant | 4-(2'-methyl-4'-fluorophenyl)-anisole | 2.1 grams | CC1=C(C=CC(=C1)F)C1=CC=C(C=C1)OC | C14H13FO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydriodic acid | I | HI
solvent | Water | O | H2O
product | 4-(2'-methyl-4'-fluorophenyl)-phenol | CC1=C(C=CC(=C1)F)C1=CC=C(C=C1)O | C13H11FO
